US05760224
To concentrated H2SO4 (75 ml) was added a solution of (1R*, 2S*)-2-[[(1RS)-2-hydroxy-1-methylethyl]amino]-1-(3-fluorophenyl)propanol (21.6 g, 0.095 mole) in dichloromethane (100 ml) at 0° C. The resulting mixture was stirred for 16 hours at room temperature and diluted with ice water. The aqueous phase was basified with 40% aqueous sodium hydroxide and extracted with diethyl ether. The diethyl ether layers were combined, washed with brine, dried (sodium sulfate), and concentrated under reduced pressure to yield the crude reaction product as the free base. The crude product was dissolved in diethyl ether and treated with ethereal hydrogen chloride. Recrystallization from ethanol-diethyl ether mixtures gave 17.7 g of (+-)-(2R*, 3R*, 5S*)-2-(3-fluorophenyl)-3,5-dimethylmorpholine hydrochloride as a white solid, m.p. 268°-269° C.

reactant | H2SO4 | 75 ml | OS(=O)(=O)O | H2O4S
reactant | 2-[[(1RS)-2-hydroxy-1-methylethyl]amino]-1-(3-fluorophenyl)propanol | 0.095 mole, 21.6 g | OCC(C)NC(C(O)C1=CC(=CC=C1)F)C | C12H18FNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3-fluorophenyl)-3,5-dimethylmorpholine hydrochloride | Cl.FC=1C=C(C=CC1)C1C(NC(CO1)C)C | InChI=1S/C12H16FNO.ClH/c1-8-7-15-12(9(2)14-8)10-4-3-5-11(13)6-10;/h3-6,8-9,12,14H,7H2,1-2H3;1H
